US08871756B2
N-[(3-Aminooxetan-3-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine
To a solution of N-{[3-(dib enzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine (1.4 g, 2.26 mmol) in methanol was added palladium hydroxide (20% on carbon, 200 mg). After being stirred at room temperature overnight under a hydrogen atmosphere, the resulting mixture was filtered. The filtrate was concentrated in vacuo. The residue was purified by column chromatography on silica gel to afford 300 mg of the product as off-white foam. MS obsd. (ESI+) [(M+H)+] 440, 1H NMR (400 MHz, CD3OD) δ ppm 7.97 (d, J=7.6 Hz, 1 H), 7.86 (d, J=7.2 Hz, 1 H), 7.69 (s, 1 H), 7.58 (t, J=7.2 Hz, 1 H), 7.44-7.34 (m, 3 H), 5.21 (s, 2 H), 4.66 (d, J=6.4 Hz, 2 H), 4.60 (br.s., 2 H), 4.56 (d, J=6.4 Hz, 2 H), 4.10 (s, 2 H), 3.52 (t, J=5.2 Hz, 2 H), 2.39 (s, 3 H).

reactant | N-{[3-(dib enzylamino)oxetan-3-yl]methyl}-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 2.26 mmol, 1.4 g | C(C1=CC=CC=C1)N(C1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O)CC2=CC=CC=C2 | C36H37N5O3S
solvent | methanol | CO | CH4O
catalyst | palladium hydroxide | 200 mg | [OH-].[Pd+2].[OH-]
product | N-[(3-Aminooxetan-3-yl)methyl]-2-(1,1-dioxido-2,3-dihydro-1,4-benzothiazepin-4(5H)-yl)-6-methylquinazolin-4-amine | 300 mg | NC1(COC1)CNC1=NC(=NC2=CC=C(C=C12)C)N1CCS(C2=C(C1)C=CC=C2)(=O)=O | C22H25N5O3S
